US06265411B1
A solution of 5-methylsulphinyloxindole (303 mg, 1.55 mmol) in DMF (3.5 ml) was added to a suspension of sodium hydride (62 mg, 1.55 mmol, prewashed with hexane) in DMF (1.5 ml) and the mixture stirred for 30 minutes at ambient temperature. 4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (175 mg, 0.51 mmol), (prepared as described for the starting material in Example 5), was added and the mixture was stirred for 1.5 hours at 50° C. and then partitioned between water and ether. The aqueous layer was adjusted to pH7-8 with 2M hydrochloric acid and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (9/1). The semi-purified solid was dissolved in dilute hydrochloric acid (pH2) and purified by reverse phase C18 chromatography eluting with methanol/dilute hydrochloric acid (pH2) (gradient from 0/100 to 30/70). The methanol was removed by evaporation, the aqueous residue was freeze dried to give 6-methoxy-4-(5-methylsulphinyloxindol-3-yl)-7-(3-morpholinopropoxy)quinazoline hydrochloride (80 mg, 27%).

reactant | 5-methylsulphinyloxindole | 1.55 mmol, 303 mg | CS(=O)C=1C=C2CC(NC2=CC1)=O | C9H9NO2S
reactant | sodium hydride | 1.55 mmol, 62 mg | [H-].[Na+]
reactant | 4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.51 mmol, 175 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(5-methylsulphinyloxindol-3-yl)-7-(3-morpholinopropoxy)quinazoline hydrochloride | 80 mg, 27% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)C1C(NC2=CC=C(C=C12)S(=O)C)=O | InChI=1S/C25H28N4O5S.ClH/c1-32-21-13-18-20(14-22(21)34-9-3-6-29-7-10-33-11-8-29)26-15-27-24(18)23-17-12-16(35(2)31)4-5-19(17)28-25(23)30;/h4-5,12-15,23H,3,6-11H2,1-2H3,(H,28,30);1H
